US04599357
To the mixture of 0.65 g of 5,6-methylenedioxyindoline-2-carboxylic acid ethyl ester, 0.76 g of powdered potassium carbonate and 8 ml of methylene chloride is added 0.50 g of 3-acetylthio-2-methylpropanoyl chloride while stirring at room temperature. It is refluxed for 2 hours, poured into 16 ml of diethyl ether and washed with 8 ml of water, 8 ml of N hydrochloride acid and 8 ml of saturated aqueous sodium bicarbonate. The organic phase is separated, dried and evaporated. The residue is taken up in 5 ml of methanol and 4.0 ml of 2.03N aqueous potassium hydroxide are each deoxygenated by bubbling nitrogen through the solutions for 10 minutes. The latter solution is added to the former and the mixture stirred at room temperature under nitrogen. After 2 hours, 15 ml of 2N hydrochloric acid are added and the mixture is extracted thrice with 25 ml of diethyl ether. The extract is dried, evaporated, the residue taken up in 10 ml of diethyl ether and the solution combined with 0.44 g of dicyclohexylamine, producing a white precipitate. It is collected, washed thrice with 3 ml of diethyl ether and dried to give the dicyclohexylammonium 1-(3-mercapto-2-methylpropanoyl)-5,6-methylenedioxyindoline-2-carboxylate melting at 194°-196°.

reactant | 5,6-methylenedioxyindoline-2-carboxylic acid ethyl ester | 0.65 g | C(C)OC(=O)C1NC2=CC3=C(C=C2C1)OCO3 | C12H13NO4
reactant | potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
reactant | 3-acetylthio-2-methylpropanoyl chloride | 0.50 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
solvent | diethyl ether | 16 ml | C(C)OCC | C4H10O
product | dicyclohexylammonium 1-(3-mercapto-2-methylpropanoyl)-5,6-methylenedioxyindoline-2-carboxylate | SCC(C(=O)N1C(CC2=CC3=C(C=C12)OCO3)C(=O)[O-])C.C3(CCCCC3)[NH2+]C3CCCCC3 | InChI=1S/C14H15NO5S.C12H23N/c1-7(5-21)13(16)15-9-4-12-11(19-6-20-12)3-8(9)2-10(15)14(17)18;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h3-4,7,10,21H,2,5-6H2,1H3,(H,17,18);11-13H,1-10H2
